US07399767B2
2,8-Dihydroxy-11H-6,12-dioxa-1,3-diaza-chrysen-5-one
To a solution of 4-bromomethyl-3-(2,4-dimethoxy-pyrimidin-5-yl)-7-methoxy-chromen-2-one (200 mg, 0.492 mmoL) in ClCH2CH2Cl (5 mL) at room temperature was added BBr3 (1.0 N, 2.50 mmoL, 2.5 mL). The result reaction mixture was stirred at room temperature for 30 min and then heated to reflux overnight. The reaction was cooled down and the solvent was removed in vacuo. The residue was dissolved in 10% K2CO3 in MeOH:acetone (˜1:1, 10 mL) at 0° C., stirring was kept for another 2 hours. The solvent was evaporated to dryness, the residue was dissolved in water (15 mL) and then acidified with dilute hydrochloric acid to about pH 4. The precipitated brown solid was isolated by filtration, washed with water and dried to yield the title compound.

reactant | 4-bromomethyl-3-(2,4-dimethoxy-pyrimidin-5-yl)-7-methoxy-chromen-2-one | 200 mg | BrCC1=C(C(OC2=CC(=CC=C12)OC)=O)C=1C(=NC(=NC1)OC)OC | C17H15BrN2O5
reactant | BBr3 | 1.0 N, 2.5 mL | B(Br)(Br)Br | BBr3
solvent | ClCH2CH2Cl | 5 mL | C(CCl)Cl | C2H4Cl2
product | 2,8-Dihydroxy-11H-6,12-dioxa-1,3-diaza-chrysen-5-one | OC1=NC=2OCC=3C4=CC=C(C=C4OC(C3C2C=N1)=O)O | C14H8N2O5
